US07994164B2
(3S,4S)-4-(4-((E)-(3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-2-nitrophenylamino)-1-methylpyrrolidin-3-ol
Combine (3S,4S)-4-(4-bromo-2-nitrophenylamino)-1-methylpyrrolidin-3-ol (17.6 mmol, 5.55 g), (E)-2-((3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (16.0 mmol, 5.62 g), triphenylphosphine (2.87 mmol, 0.75 g), and K2CO3 (44.7 mmol, 6.18 g) in 110 mL of dioxane:water (3:1). Degas the mixture by bubbling with nitrogen for five min, add palladium (II) acetate (0.48 mmol, 322 mg), and heat at 82° C. under nitrogen for 3.5 h. Cool to room temperature, dilute with water and dichloromethane and then pass through a pad of diatomaceous earth. Separate the phases and extract the aqueous phase with dichloromethane twice. Combine the organic phases, wash with brine, dry over anhydrous sodium sulfate, filter, and remove the solvent in vacuo. Dissolve in 4:1 CH2Cl2/MeOH and pass through a plug of silica using the same solvent. Concentrate the filtrate and triturate with methanol. Collect the resulting solid by filtration to obtain the title compound as a red solid (4.12 g, 56%): 1H NMR (300 MHz, CDCl3) δ 2.23 (dd, J=9.9, 5.6 Hz, 1H), 2.38 (s, 3H), 2.28-2.26 (m, 1H), 2.70 (d, J=3.5 Hz, 2H), 3.36 (dd, J=9.8, 7.1 Hz, 1H), 3.91-3.87 (m, 1H), 4.01 (br s, 1H), 5.00-4.80 (m, 1H), 5.70-5.50 (m, 1H), 6.52 (dd, J=10.3, 2.6 Hz, 1H), 6.68-6.64 (m, 1H), 6.78-6.75 (m, 2H), 7.01 (d, J=7.7 Hz, 1H), 7.08 (d, J=7.5 Hz, 1H), 7.24-7.22 (m, 1H), 7.35 (dt, J=7.5, 1.2 Hz, 1H), 7.42 (dd, J=8.7, 6.6 Hz, 1H), 7.47 (d, J=7.4 Hz, 1H), 7.94 (s, 1H), 8.00 (d, J=6.2 Hz, 1H).

reactant | (3S,4S)-4-(4-bromo-2-nitrophenylamino)-1-methylpyrrolidin-3-ol | 17.6 mmol, 5.55 g | BrC1=CC(=C(C=C1)N[C@@H]1[C@H](CN(C1)C)O)[N+](=O)[O-] | C11H14BrN3O3
reactant | (E)-2-((3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 16.0 mmol, 5.62 g | FC=1C=CC\2=C(OCC3=C(/C2=C\B2OC(C(O2)(C)C)(C)C)C=CC=C3)C1 | C21H22BFO3
reactant | triphenylphosphine | 2.87 mmol, 0.75 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | K2CO3 | 44.7 mmol, 6.18 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane water | 110 mL | O1CCOCC1.O
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium (II) acetate | 0.48 mmol, 322 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (3S,4S)-4-(4-((E)-(3-fluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-2-nitrophenylamino)-1-methylpyrrolidin-3-ol | 4.12 g, 56% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC(=C(C=C2)N[C@@H]2[C@H](CN(C2)C)O)[N+](=O)[O-])C=CC=C3)C1 | C26H24FN3O4
